US04770688
6.4 g (0.02 mol) of 5-bromo-4-cyano-1-(2,4-dichlorophenyl)-pyrazole and 15 g (0.2 mol) of hydrazine hydrate in 80 ml of dioxane are stirred at the reflux temperature for 20 hours, the mixture is then concentrated under reduced pressure and the residue is stirred with water, filtered off with suction and recrystallized twice from ethanol. 2.1 g (40% of theory) of 4-cyano-5-hydrazino-1-(2,4-dichlorophenyl)-pyrazole of melting point 199° C.-204° C. are obtained.

reactant | 5-bromo-4-cyano-1-(2,4-dichlorophenyl)-pyrazole | 0.02 mol, 6.4 g | BrC1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C#N | C10H4BrCl2N3
reactant | hydrazine hydrate | 0.2 mol, 15 g | O.NN
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 4-cyano-5-hydrazino-1-(2,4-dichlorophenyl)-pyrazole | 2.1 g, 40% | C(#N)C=1C=NN(C1NN)C1=C(C=C(C=C1)Cl)Cl | C10H7Cl2N5
